US04080330
A solution of 3.0 g of 2-bromopropionylchloride in 5 ml of benzene was added dropwise at 10° to a mixture of 3.0 g of 3-phenylindoline, 3.0 ml of triethylamine in 30 ml of dry benzene. The mixture was then washed with water, the benzene layer dried over sodium sulfate and the solvent removed in vacuo at room temperature to leave 4.9 g of the desired N-(2-bromopropionyl)-3-phenylindoline as a resin.

reactant | 2-bromopropionylchloride | 3.0 g | BrC(C(=O)Cl)C | C3H4BrClO
reactant | 3-phenylindoline | 3.0 g | C1(=CC=CC=C1)C1CNC2=CC=CC=C12 | C14H13N
reactant | triethylamine | 3.0 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | N-(2-bromopropionyl)-3-phenylindoline | 4.9 g | BrC(C(=O)N1CC(C2=CC=CC=C12)C1=CC=CC=C1)C | C17H16BrNO
